US06265426B1
1-[5-(3-Dimethylaminomethyl-phenyl)-3-(4-methoxy-phenyl)-[1,2,4]triazol-1-yl]-propan-2-ol hydrochloride salt (1:1)
To a stirred solution of 1-[5-(3-dimethylaminomethyl-phenyl)-3-(4-methoxy-phenyl)-[1,2,4]triazol-1-yl]-propan-2-one hydrochloride (22 mg, 0.05 mmol) in methanol (4 ml), was added Lithium borohydride (1.8 mg, 0.08 mmol) and the mixture stirred for 4 hr at r.t. Saturated Na2CO3 solution was then added and the mixture stirred for 15 min., the aqueous phase was then extracted twice with EtOAc, dried with Na2SO4 filtered and the solvent evaporated to afford a yellow oil. This was dissolved in CHCl3 and 1.45N HCl/EtOH (0.05 ml) was added at 4° C. After 20 min ether was added to precipitate the titled salt as a light brown solid (17 mg, 76.9% yield) MS: m/e=367.3 (M+H+).

reactant | 1-[5-(3-dimethylaminomethyl-phenyl)-3-(4-methoxy-phenyl)-[1,2,4]triazol-1-yl]-propan-2-one hydrochloride | 0.05 mmol, 22 mg | Cl.CN(C)CC=1C=C(C=CC1)C1=NC(=NN1CC(C)=O)C1=CC=C(C=C1)OC
reactant | Lithium borohydride | 0.08 mmol, 1.8 mg | [BH4-].[Li+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl EtOH | 1.45N, 0.05 ml | Cl.CCO
solvent | methanol | 4 ml | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 1-[5-(3-Dimethylaminomethyl-phenyl)-3-(4-methoxy-phenyl)-[1,2,4]triazol-1-yl]-propan-2-ol hydrochloride salt | 17 mg, 76.9% yield | Cl.CN(C)CC=1C=C(C=CC1)C1=NC(=NN1CC(C)O)C1=CC=C(C=C1)OC | InChI=1S/C21H26N4O2.ClH/c1-15(26)13-25-21(18-7-5-6-16(12-18)14-24(2)3)22-20(23-25)17-8-10-19(27-4)11-9-17;/h5-12,15,26H,13-14H2,1-4H3;1H
